data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_211679_1,[C:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:6]\[C:2]([H:12])([H:13])[H:14])(/[C:5](=[N:7]\[H:8])[H:11])([H:9])[H:10]>>[C:1](=[C:4]([C:3]([H:15])([H:16])[H:17])[N:6]([C:2]([H:12])([H:13])[H:14])/[C:5](=[N:7]\[H:8])[H:11])([H:9])[H:10],71.2400750000161
MR_61134_1,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:12])[C:6]([N:4]([O:7][H:9])[H:10])([N:5]([C:2]([H:13])([H:14])[H:15])[H:11])[O:8]1>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([O:7][H:9])[H:10])([C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[H:11])=[O:8])[H:12],50.25145499996711
MR_48238_2,[C:1]1([C:2]([C:4]([H:13])([H:14])[H:15])([O:7][H:8])[H:11])([H:10])[C:3]([C:5]([H:16])([H:17])[H:18])([H:12])[N:6]1[H:9]>>[C:1]1([C:5]([H:16])([H:17])[H:18])([H:10])[C:3]([C:2]([C:4]([H:13])([H:14])[H:15])([O:7][H:8])[H:11])([H:12])[N:6]1[H:9],63.51868749999966
MR_317863_1,[C:1]1([C:2]([H:12])([H:13])[H:14])([H:11])[C:5]2([N:3]([H:9])[N:4]([H:10])[C:6]2=[C:7]([H:15])[H:16])[O:8]1>>[C:1]1([C:2]([H:12])([H:13])[H:14])([H:11])[C:5](=[O:8])[N:3]([H:9])[N:4]([H:10])[C:6]1=[C:7]([H:15])[H:16],50.456647499984086
MR_173630_2,[C:1]([c:4]1[c:2]([O:7][H:9])[n:8][o:6][c:3]1[N:5]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:2]([O:7][H:9])[N:8]2[C:3]1([N:5]([H:10])[H:11])[O:6]2)([H:12])([H:13])[H:14],72.60425999999612
MR_172823_1,[C:1]([C:4]([O:8][C:5]([C:2]([H:15])([H:16])[H:17])[C:6]([C:3]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])=[O:9])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C:6]([C:3]([H:18])([H:19])[H:20])([C:5]([C:2]([H:15])([H:16])[H:17])=[O:8])[N:7]([H:10])[H:11])=[O:9])([H:12])([H:13])[H:14],46.266202500005846
MR_387161_0,[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([C:5]([H:21])([H:22])[H:23])[H:13])([C:3]([C:6]([N:7]([H:14])[H:15])=[O:10])([H:16])[H:17])([O:8][H:12])[O:9][H:11]>>[C:1]([C:3]([C:6]([C:2]([C:4]([H:18])([H:19])[H:20])([C:5]([H:21])([H:22])[H:23])[H:13])([N:7]([H:14])[H:15])[O:10][H:11])([H:16])[H:17])([O:8][H:12])=[O:9],67.92812999992435
MR_595737_0,[C:1]1([N:4]=[O:5])([H:6])[C:2]([H:7])([H:8])[C:3]1([H:9])[H:10]>>[C:1]([C:2]([N:4][O:5])([H:7])[H:8])(=[C:3]([H:9])[H:10])[H:6],70.47766250001487
MR_309237_0,[C:1]([C:3](=[C:4]([H:12])[H:13])[H:11])([O:6][O:5][N:2]([H:7])[H:8])([H:9])[H:10]>>[C:1]([O:5][N:2]([H:7])[H:8])([O:6][C:3](=[C:4]([H:12])[H:13])[H:11])([H:9])[H:10],48.33569749998858
MR_233070_1,[C:1]([N:3]([H:6])[H:7])(/[N:5]=[C:4](\[C:2]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9]>>[C:1](=[N:5][C@:4]([C:2]([H:11])([H:12])[H:13])([N:3]([H:6])[H:7])[H:10])([H:8])[H:9],62.34463500000331
MR_212594_0,[C:1](/[C:2](=[N:4]/[H:9])[H:8])([O:5][H:10])([O:6][C:3]([H:11])([H:12])[H:13])[H:7]>>[C:1]1([O:6][C:3]([H:11])([H:12])[H:13])([H:7])[C:2]([N:4]([H:9])[H:10])([H:8])[O:5]1,36.40504000000576
MR_384253_2,[C:1](/[N:7]=[C:4]([C:2]([H:15])([H:16])[H:17])\[C:3]([O:6][N:5]([H:9])[H:10])=[N:8]\[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:7]1/[C:3](=[N:8]/[H:11])[C@:4]1([C:2]([H:15])([H:16])[H:17])[O:6][N:5]([H:9])[H:10])([H:12])([H:13])[H:14],71.99307499996976
MR_31799_0,[C:1]([C:2]([C:3](=[C:5]([H:12])[H:13])[H:6])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:3]([H:6])[C:5]([H:12])([H:13])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9],47.23317999998997
MR_237853_0,[C:1]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])(/[N:9]=[C:6](\[C:7](=[C:8]([H:22])[H:23])[H:12])[H:11])[H:10]>>[C:1](\[C:4]([H:19])([H:20])[H:21])(=[N:9]\[C:6](=[C:7](/[C:8]([N:5]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])([H:22])[H:23])[H:12])[H:11])[H:10],25.503482499992884
MR_658500_2,[C:1]([C:6]1([H:14])[C:2]2([N:4]([H:10])[H:11])[N:8]1[N:9]2[C:3]([N:5]([H:12])[H:13])=[C:7]([H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1](/[C:6](=[C:2]([N:4]([H:10])[H:11])/[N:8]=[N:9]/[C:3]([N:5]([H:12])[H:13])=[C:7]([H:15])[H:16])[H:14])([H:17])([H:18])[H:19],19.003837499995058
MR_281088_1,[C@:1]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([N:5]([O:7][C:3]([H:14])([H:15])[H:16])[H:8])[H:9]>>[C@@:1]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])[H:8])([O:7][C:3]([H:14])([H:15])[H:16])[H:9],70.47327000002596
MR_87434_0,[C:1]([C:3]([H:12])([H:13])[H:14])([C:6]([C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:15])([H:19])[H:20])[H:11])([O:8][H:9])[H:10])=[O:7]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:6]([C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:15])([H:19])[H:20])[H:11])=[O:8])([O:7][H:9])[H:10],45.84326750000358
MR_346093_0,[C:1](/[N:6]=[C:4](/[C:2]([H:13])([H:14])[H:15])[N:3](/[N:5]=[N:7]\[H:9])[H:8])([H:10])([H:11])[H:12]>>[C:1]([N:6](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:3]/[H:8])/[N:5]=[N:7]\[H:9])([H:10])([H:11])[H:12],41.61454500001497
MR_603290_2,[C:1]([C:3]([N:2]([N:5]([H:10])[H:11])[C:8](=[O:9])[H:16])=[C:4]([N:6]([H:13])[H:14])[N:7]([H:12])[H:15])([H:17])([H:18])[H:19]>>[C:1]([C:3]1(/[C:4](=[N:6]/[H:14])[N:7]([H:12])[H:15])[N:2]([N:5]([H:10])[H:11])[C:8]1([O:9][H:13])[H:16])([H:17])([H:18])[H:19],41.30079500002239
